US07371743B2
(d) N-[(1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxy-ethyl]-3-fluoro-4-(morpholin-3-on-4-yl)-benzamide
Prepared analogously to Example 41d from 3-fluoro-4-(morpholin-3-on-4-yl)-benzoic acid-chloride and (1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxy-ethylamine with TEA in THF.

reactant | 3-fluoro-4-(morpholin-3-on-4-yl)-benzoic acid-chloride | FC=1C=C(C(=O)Cl)C=CC1N1C(COCC1)=O | C11H9ClFNO3
reactant | (1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxy-ethylamine | ClC1=CC2=C(NC(=N2)[C@H](COC)N)C=C1 | C10H12ClN3O
solvent | THF | C1CCOC1 | C4H8O
product | N-[(1R)-1-(5-chloro-1H-benzimidazol-2-yl)-2-methoxy-ethyl]-3-fluoro-4-(morpholin-3-on-4-yl)-benzamide | ClC1=CC2=C(NC(=N2)[C@H](COC)NC(C2=CC(=C(C=C2)N2C(COCC2)=O)F)=O)C=C1 | C21H20ClFN4O4
